US06030547
Preparation of 5-heptyl-2-[4-(3-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)propoxy)phenyl]pyrimidine
The starting material, 3-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)propyl chloride, was prepared by combining 3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropanol (20 g, 39.4 mmol) and 1-bromo-3-chloropropane (18.6 g, 118 mmol). The resulting compound (2.0 g, 3.4 mmol) was then combined with 5-heptyl-2-(4-hydroxyphenyl)pyrimidine (0.9 g, 3.4 mmol) in acetonitrile/dimethyl formamide (1:1, 20 mL) using essentially the procedure of Example 8 of International Patent Publication No. WO 96/33251. The resulting crude product was further purified by chromatography, eluting with 30:1 toluene/ethyl acetate, followed by Kugelrohr distillation (180-90° C. at 0.01 torr; yield 0.96 g).

reactant | 3-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)propyl chloride | FC(C(C(OC(C(OC(COC[C@H](COCCCCl)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C14H13ClF16O4
reactant | 3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropanol | 39.4 mmol, 20 g | FC(C(C(OC(C(OC(COC[C@H](CO)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C11H8F16O4
reactant | 1-bromo-3-chloropropane | 118 mmol, 18.6 g | BrCCCCl | C3H6BrCl
reactant | 5-heptyl-2-(4-hydroxyphenyl)pyrimidine | 3.4 mmol, 0.9 g | C(CCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C17H22N2O
solvent | acetonitrile dimethyl formamide | 20 mL | C(C)#N.CN(C=O)C
product | 5-heptyl-2-[4-(3-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)propoxy)phenyl]pyrimidine | C(CCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCOC[C@@H](COCC(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C31H34F16N2O5
